US06583154B1
(a) 8-Azabicyclo[3.2.1]octane Hydrochloride
To an oven-dried, 100-mL, round-bottomed flask was added tropane (2.5 g, 19.96 mmol) followed by toluene (20 mL), and a-chloro-ethyl chloroformate (3.2 mL, 30 mmol). The flask was purged with N2 and the mixture was heated at 120° C. for 16 h. The reaction was allowed to cool to room temperature and the solvent was evaporated in vacuo. The resulting residue was dissolved in MeOH (20 mL) and heated to reflux at 85° C. for 3 h. The solvent was evaporated in vacuo and the product dried under vacuum to give 2.90 g (98% yield) of a light brown solid. MS m/z: 112.0 (M+1). 1H NMR (DMSO-d6; 400 MHz): d 1.64 (m, 4), 1.95 (m, 6), 3.92, (s, 2), 9.24 (br d, 2, J=7.3).

reactant | tropane | 19.96 mmol, 2.5 g | [C@H]12CCC[C@H](CC1)N2C | C8H15N
reactant | a-chloro-ethyl chloroformate | 30 mmol, 3.2 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 8-Azabicyclo[3.2.1]octane Hydrochloride | 2.90 g, 98% yield | Cl.C12CCCC(CC1)N2 | InChI=1S/C7H13N.ClH/c1-2-6-4-5-7(3-1)8-6;/h6-8H,1-5H2;1H
